US07547710B2
A mixture of tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-(2H-tetrazol-5-yl)quinolin-3-yl]methylcarbamate (0.16 g, 0.33 mmol), 2-chloroacetamide (0.047 g, 0.50 mmol), potassium carbonate (0.070 g, 0.50 mmol) and N,N-dimethylformamide (5 ml) was stirred at 80° C. for 3 hrs. The reaction mixture was partitioned between ethyl acetate-tetrahydrofuran and water and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined and washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl [6-[2-(2-amino-2-oxoethyl)-2H-tetrazol-5-yl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (0.12 g, yield 69%) as a pale-yellow powder.

reactant | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-(2H-tetrazol-5-yl)quinolin-3-yl]methylcarbamate | 0.33 mmol, 0.16 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)C=1N=NNN1 | C27H32N6O2
reactant | 2-chloroacetamide | 0.50 mmol, 0.047 g | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 0.50 mmol, 0.070 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-butyl [6-[2-(2-amino-2-oxoethyl)-2H-tetrazol-5-yl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 0.12 g, yield 69% | NC(CN1N=C(N=N1)C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=O | C29H35N7O3
